US04077982
b. 5-benzyloxy-2-(2-furyl)-1,3-dioxane
To a stirred solution of 17 g of 2-(2-furyl)-5-hydroxy-1,3-dioxane in 150 ml of toluene was added over a period of twenty minutes 4.4 g of sodium hydride (54.7% in mineral oil). The mixture was allowed to stir for 1 hour to permit evolution of by-product hydrogen, after which time 12.7 g of benzyl chloride was added during 15 minutes. The reaction mixture was heated to 70° C and maintained thereat for ca. 21 hours. The reaction mixture was allowed to cool to room temperature and remain at that temperature for 4 days. The mixture was washed with two 250-ml volumes of water, which aqueous washes were combined and extracted with toluene (three 150-ml volumes) to recover product. The toluene solution was combined with the washed reaction mixture and the total mixture was dried over magnesium sulfate, filtered and evaporated under reduced pressure to give 22.5 g of amber oil. The oil was washed with 25 ml of hexane, which procedure produced 17.5 g of clear oil. The clear oil was distilled and those fractions boiling at a bath temperature of 144°-154° C under 2 × 10-4 mm Hg (bath temp. 144°-147°; nD25 1.5349: bath temp. 148°-154°; nD25 1.5379) were combined (10.6 g) and a portion was submitted for elemental analysis. Upon refrigeration for ca. 48 hours, 0.5 g of crystalline 5-benzyloxy-2-(2-furyl)-1,3-dioxane precipitated, m.p. 58.5°-61° C.

reactant | 2-(2-furyl)-5-hydroxy-1,3-dioxane | 17 g | O1C(=CC=C1)C1OCC(CO1)O | C8H10O4
reactant | sodium hydride | 4.4 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | benzyl chloride | 12.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5-benzyloxy-2-(2-furyl)-1,3-dioxane | 22.5 g | C(C1=CC=CC=C1)OC1COC(OC1)C=1OC=CC1 | C15H16O4
